US05891882
Methyl 3-amino-4-methoxy-thieno[2,3-b]pyridine-2-carboxylate
To 2-chloro-3-cyano-4-methoxypyridine (2.02 g) and methyl thioglycolate (1.1 mL) in DMF (24 mL) at 5° C. was added a 1.0M solution of KOtBu/THF (14.6 mL). The reaction was stirred 20 min at 5°, then 1 h at RT, quenched in saturated NH4Cl, the solid collected, washed with water and sucked dry. This was recrystallized from EtOAc to give 0.89 g of the title compound.

reactant | 2-chloro-3-cyano-4-methoxypyridine | 2.02 g | ClC1=NC=CC(=C1C#N)OC | C7H5ClN2O
reactant | methyl thioglycolate | 1.1 mL | C(CS)(=O)OC | C3H6O2S
reactant | KOtBu THF | 14.6 mL | CC(C)(C)[O-].[K+].C1CCOC1
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
product | Methyl 3-amino-4-methoxy-thieno[2,3-b]pyridine-2-carboxylate | 0.89 g | NC1=C(SC2=NC=CC(=C21)OC)C(=O)OC | C10H10N2O3S
